US08193198B2
Synthesis of 3-[{2-[2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenylamino]-1-oxopropyl}amino]propionic acid methyl ester (Compound No. 15)
3-[2-(Toluene-4-sulfonyloxy)-propionylamino]propionic acid methyl ester (307 mg) was dissolved in acetonitrile (5 mL). After addition of 1-methyl-3-(5-amino-4-chloro-2-fluorophenyl)-6-trifluoromethyl-1H-pyrimidin-2,4-dione (300 mg) and potassium carbonate (135 mg), the reaction mixture was heated for 6 hours under reflux without cooling. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). Thus obtained organic layer was dried with magnesium sulfate and concentrated. The concentrate was purified by silica gel column chromatography to give the target compound (170 mg).

reactant | 3-[2-(Toluene-4-sulfonyloxy)-propionylamino]propionic acid methyl ester | 307 mg | COC(CCNC(C(C)OS(=O)(=O)C1=CC=C(C=C1)C)=O)=O | C14H19NO6S
reactant | 1-methyl-3-(5-amino-4-chloro-2-fluorophenyl)-6-trifluoromethyl-1H-pyrimidin-2,4-dione | 300 mg | CN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)N)Cl)F)=O | C12H8ClF4N3O2
reactant | potassium carbonate | 135 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-[{2-[2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenylamino]-1-oxopropyl}amino]propionic acid methyl ester | 170 mg | COC(CCNC(C(C)NC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O)=O | C19H19ClF4N4O5
